US04663341
Into a 3000 ml three necked flask equipped with a mechanical stirrer, thermometer, and addition funnel was placed 65 ml of diisopropylamine (0.47 mole), 155 g (0.45 mole) of N,3-bis-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide and 1000 ml of tetrahydrofuran. The atmosphere was exchanged for nitrogen and the mixture was cooled to -20° C. internal. Then 375 ml of 2.6M n-butyllithium in hexane (0.97 mole) was added at a rate to maintain the internal temperature below -10° C. The mixture was stirred for an additional 30 minutes at -20° C. and then cooled to -60° C. whereon 45 ml of dimethylcarbamoyl chloride (0.49 mole) was added in one portion. After stirring for 15 minutes the reaction was quenched with 35 ml of acetic acid and 100 ml of water. After warming to room temperature, the organic layer was separated, dried over magnesium sulfate and concentrated in vacuo. Crystallization from ethyl ether gave 125 g of N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide. Mp 194°-197° C. NMR and IR data were consistent with the structure.

reactant | diisopropylamine | 0.47 mole, 65 ml | C(C)(C)NC(C)C | C6H15N
reactant | N,3-bis-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 0.45 mole, 155 g | ClC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C)C1=CC=C(C=C1)Cl | C17H15Cl2N3O
reactant | n-butyllithium | 2.6M, 375 ml | C(CCC)[Li]
reactant | hexane | 0.97 mole | CCCCCC | C6H14
reactant | dimethylcarbamoyl chloride | 0.49 mole, 45 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | N,3-bis-(4-chlorophenyl)-4-dimethylcarbamoyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 125 g | ClC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C(N(C)C)=O)C1=CC=C(C=C1)Cl | C20H20Cl2N4O2
